US07838461B2
150 g of distilled water, 120 g of ethanol and 30 g of dodecylamine were put and dissolved in a 1 L beaker. 62 g of tetraethoxysilane and a solution of pentaethoxyniobium in ethanol (a solution of 9.5 g of pentaethoxyniobium in 5 g of ethanol) were added to the solution while stirring, and the mixture was stirred at room temperature for 22 h. Thereafter, the reaction product was filtrated, washed with water, dried in hot air at 100° C. for 5 h, and thereafter calcined in air at 550° C. for 5 h to decompose and remove the contained dodecylamine, thus obtaining a mesoporous niobium silicate material. The material was found to be a niobium silicate having a Si/Nb molar ratio of about 10 by the X-ray diffractometry. As the results of the pore distribution and specific surface area measurements, the material had a pore peak at the position of about 2.5 nm, a specific surface area of 757 m2/g, a pore volume of 0.63 cm3/g, and the volume occupied by pores of 2 to 50 nm was 0.60 cm3/g. Using 5 g of this material, a mesoporous catalyst with a platinum content of about 2 mass % was synthesized by the method similar to Example 1.

reactant | water | 150 g | O | H2O
reactant | dodecylamine | 30 g | C(CCCCCCCCCCC)N | C12H27N
reactant | tetraethoxysilane | 62 g | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | pentaethoxyniobium | C(C)O[Nb](OCC)(OCC)(OCC)OCC
reactant | pentaethoxyniobium | 9.5 g | C(C)O[Nb](OCC)(OCC)(OCC)OCC
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 5 g | C(C)O | C2H6O
solvent | ethanol | 120 g | C(C)O | C2H6O
product | niobium silicate | [Si]([O-])([O-])([O-])[O-].[Nb+5].[Si]([O-])([O-])([O-])[O-].[Si]([O-])([O-])([O-])[O-].[Si]([O-])([O-])([O-])[O-].[Si]([O-])([O-])([O-])[O-].[Nb+5].[Nb+5].[Nb+5] | InChI=1S/4Nb.5O4Si/c;;;;5*1-5(2,3)4/q4*+5;5*-4
